US06087399
A solution of 1.2 g (4.4 mmol) of N-(7-nitro-1,2,3,4-tetrahydronaphthalen-1-yl)methanesulfonamide in 16 ml of DMF was added dropwise to a suspension of 0.15 g (5.1 nmol) 80 percent sodium hydride in 10 ml of DMF. After stirring at room temperature for 1 hr., 0.62 g (4.4 mmol) of iodomethane were added and the mixture was allowed to stand at room temperature overnight. The reaction mixture was completely concentrated in vacuo and the residue was then taken up in EA and water. After washing the organic phase with dil. hydrochloric acid and sodium bicarbonate solution and concentrating, the residue was purified by chromatography on silica gel using cyclohexane/EA 3:1 and 0.3 g of N-methyl-N-(7-nitro-1,2,3,4-tetrahydronaphthalen-1-yl)methanesulfonamide was obtained; m.p. 138-140° C.

reactant | N-(7-nitro-1,2,3,4-tetrahydronaphthalen-1-yl)methanesulfonamide | 4.4 mmol, 1.2 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)NS(=O)(=O)C | C11H14N2O4S
reactant | sodium hydride | 5.1 nmol, 0.15 g | [H-].[Na+]
reactant | iodomethane | 4.4 mmol, 0.62 g | IC | CH3I
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-methyl-N-(7-nitro-1,2,3,4-tetrahydronaphthalen-1-yl)methanesulfonamide | 0.3 g | CN(S(=O)(=O)C)C1CCCC2=CC=C(C=C12)[N+](=O)[O-] | C12H16N2O4S
